US06673811B1
C. Preparation of [6-(1-Methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acetic Acid Ethyl Ester
Sodium hydride (60%, 1.64 g, 41 mmol) is added to a solution of 4-hydroxy-1-methylpiperidine (4.72 g, 41 mmol) in THF (82 mL) at room temperature. The mixture is stirred for a period of 30 minutes. A solution of (6-chloro-3-nitro-pyridin-2-yl)-acetic acid ethyl ester (5.0 g, 20.5 mmol) in THF (10 mL) is then added. The resulting purple mixture is stirred at room temperature for a period of 70 minutes. An additional portion of NaH (410 mg, 10.3 mmol) is added. The resulting mixture is stirred for a period of 70 minutes at room temperature and a saturated solution of NaHCO3 (30 mL) is then added slowly. The mixture is diluted with EtOAc (100 mL) and 1 N NaOH (aq, 10 mL). The layers are partititioned and the aqueous layer extracted with EtOAc (3×50 mL). The combined organic extracts are washed with H2O (50 mL) and brine (50 mL) and dried over Na2SO4. The mixture is filtered to remove the solids, concentrated, and purified by flash chromatography on silica (gradient elution: 50% EtOAc in hexanes to 2% MeOH/CHCl3 with 0.1% NH4OH to 4% MeOH/CHCl3, with 0.1% NH4OH) to give the title compound as a dark brown oil: 1H NMR (400 MHz, CDCl3) δ 8.34 (d, 1H, J=9.1 Hz), 6.73 (d, 1H, J=9.1 Hz), 4.18 (q, 2H, J=7.1 Hz), 4.17 (s, 2H), 2.70-2.65 (m, 2H), 2.35-2.27 (m, 2H), 2.30 (s, 3H), 2.07-2.00 (m, 2H), 1.89-1.80 (m, 2H), 1.25 (t, 3H, J=7.1 Hz); 13C NMR (100 MHz, CDCl3) δ 169.5, 164.6, 150.6, 139.5, 136.5, 111.3, 72.5, 61.4, 53.0, 46.3, 44.0, 30.9, 14.4; MS (CI) m/z 324.2 (M+1).

reactant | Sodium hydride | 41 mmol, 1.64 g | [H-].[Na+]
reactant | 4-hydroxy-1-methylpiperidine | 41 mmol, 4.72 g | OC1CCN(CC1)C | C6H13NO
reactant | (6-chloro-3-nitro-pyridin-2-yl)-acetic acid ethyl ester | 20.5 mmol, 5.0 g | C(C)OC(CC1=NC(=CC=C1[N+](=O)[O-])Cl)=O | C9H9ClN2O4
reactant | NaH | 10.3 mmol, 410 mg | [H-].[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 82 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | NaOH | 1 N, 10 mL | [OH-].[Na+]
product | [6-(1-Methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acetic Acid Ethyl Ester | C(C)OC(CC1=NC(=CC=C1[N+](=O)[O-])OC1CCN(CC1)C)=O | C15H21N3O5
